US08471005B2
Into a round bottom flask, 6-Bromo-4-chloro-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (6.00 g, 21.5 mmoles) was suspended in Isopropyl alcohol (69 mL) at 55° C. Sodium borohydride (1.71 g, 0.0452 mol) was added and heated at 60° C. for 3 hours. The reaction was allowed to cool to RT. The solid was filtered and washed with DCM. The solvent was removed under vacuum to a viscous oil. Methylene chloride (100 mL, 2 mol) was added to the viscous oil. Dichlorodicyanoquinone (5.38 g, 0.0237 mol) was then added portion wise over 15 minutes. The mixture was stirred for 30 minutes. The solid was filtered through Celite and washed with DCM. The solvent was removed under vacuum. The reaction was purified via ISCO column chromatography with hexane and EtOAca as eluant (0 to 8% EtOAC). The collected fractions afforded 6-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine as a light yellow solid (1.46, 27%).

reactant | 6-Bromo-4-chloro-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 21.5 mmoles, 6.00 g | BrC=1C=C2C(=NC(=NN2C1)SC)Cl | C7H5BrClN3S
reactant | Sodium borohydride | 0.0452 mol, 1.71 g | [BH4-].[Na+]
reactant | Methylene chloride | 2 mol, 100 mL | C(Cl)Cl | CH2Cl2
solvent | Isopropyl alcohol | 69 mL | C(C)(C)O | C3H8O
product | 6-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | BrC=1C=C2C=NC(=NN2C1)SC | C7H6BrN3S
